US05262433
To a solution of 2.4 g (9.8 mM) of [5-(2-benzofuryl) tetrazol-1-yl]acetic acid in 12 ml of ethylene glycol was added 1 ml of sulfuric acid. After the addition, the mixture was stirred at 90° C. for 2.5 hrs. The mixture was then poured into ice-water and the precipitated crystal was filtered off, washed with water and then dissolved in ethyl acetate. The organic solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was recrystallized from methyl alcohol, to give 2.14 g (yield 75.4%) of [5-(2-benzofuryl)tetrazol-1-yl]acetic acid 2-hydroxyethyl ester.

reactant | [5-(2-benzofuryl) tetrazol-1-yl]acetic acid | 9.8 mM, 2.4 g | O1C(=CC2=C1C=CC=C2)C2=NN=NN2CC(=O)O | C11H8N4O3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethylene glycol | 12 ml | C(CO)O | C2H6O2
product | [5-(2-benzofuryl)tetrazol-1-yl]acetic acid 2-hydroxyethyl ester | 2.14 g, yield 75.4% | OCCOC(CN1N=NN=C1C=1OC2=C(C1)C=CC=C2)=O | C13H12N4O4
